US05786371
115 g 4-hydroxy-phenylacetic acid ethyl ester is hydrogenated in a mixture of 10 ml one molar sodium ethylate solution and 350 ml ethanol for 72 hours at 160° C. and 200 bar using Raney-Nickel. The preparation is subsequently evaporated and the remaining oil is distilled in a high vacuum. 76.4 g 4-hydroxycyclohexane-acetic acid ethyl ester is obtained with a boiling point of 120°-121° C./2 mm Hg. TLC (mobile solvent: dichloromethane/methanol 9:1). Rf=0.8.

reactant | 4-hydroxy-phenylacetic acid ethyl ester | 115 g | C(C)OC(CC1=CC=C(C=C1)O)=O | C10H12O3
solvent | sodium ethylate solution | one molar, 10 ml | CC[O-].[Na+]
solvent | ethanol | 350 ml | C(C)O | C2H6O
catalyst | Raney-Nickel | [Ni] | Ni
product | 4-hydroxycyclohexane-acetic acid ethyl ester | 76.4 g | C(C)OC(CC1CCC(CC1)O)=O | C10H18O3
